US09315467B2
Part A. A solution of 3,5-dibromopyridine (1.0 g, 4.2 mmol) and 4-isopropylbenzeneboronic acid (346 mg, 2.1 mmol) in a mixture of ethanol-toluene-water (10 mL/5 mL/3 mL) is treated with sodium carbonate (450 mg). The mixture is degassed twice, treated with a catalytic amount of tetrakis(triphenylphosphine)palladium, and heated with stirring to 80° C. for 12 h. The mixture is cooled, filtered and evaporated. The residue is partitioned between water and ethyl acetate, and the organic phase is washed with brine, dried over sodium sulfate, filtered and evaporated. The residue is separated by column chromatography to afford 3-bromo-5-(4-isopropyl-phenyl)-pyridine (300 mg, 55%).

reactant | 3,5-dibromopyridine | 4.2 mmol, 1.0 g | BrC=1C=NC=C(C1)Br | C5H3Br2N
reactant | 4-isopropylbenzeneboronic acid | 2.1 mmol, 346 mg | C(C)(C)C1=CC=C(C=C1)B(O)O | C9H13BO2
reactant | sodium carbonate | 450 mg | C([O-])([O-])=O.[Na+].[Na+]
product | 3-bromo-5-(4-isopropyl-phenyl)-pyridine | 300 mg, 55% | BrC=1C=NC=C(C1)C1=CC=C(C=C1)C(C)C | C14H14BrN
